US04689182
Step 1. 4-(1-aminoethyl)benzoic acid
4-Acetylbenzoic acid (4.1 g) is dissolved in 50 mL ammonia-saturated methanol. Raney nickel catalyst (1.5 g; activity grade III) is then added and the mixture reduced under hydrogen atmosphere (4750 psi) at 80° C. for 17 hrs. After removal of the catalyst by suction filtration, the filtrate is evaporated and the residue dissolved in H2O. The solution is passed through a 2.5×15 cm column of Dowex-50X8-400 resin (H+ form) and eluted with 1N NH4OH. Evaporation of the eluate leaves a residue (2.9 g) which is recrystallized from H2O/acetone and characterized as 4-(1-aminoethyl)benzoic acid, m.p.>300° C.

reactant | 4-Acetylbenzoic acid | 4.1 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | ammonia | 50 mL | N | H3N
catalyst | Raney nickel | 1.5 g | [Ni] | Ni
product | 4-(1-aminoethyl)benzoic acid | 2.9 g | NC(C)C1=CC=C(C(=O)O)C=C1 | C9H11NO2
